US08461197B2
Sodium 2,2-d2-4-hydroxybutyrate is prepared in the following manner: treatment of succinic anhydride with tert-butanol, N-hydroxysuccinimide, and 4-dimethylaminopyridine (4-DMAP) according to the procedure of Yao, Z-J., et al, J. Org. Chem. 2003, 68, 6679-6684 affords the succinic acid mono-tert-butyl ester. In accordance with Yao, reduction of the succinic acid with borane-dimethyl sulfide complex gives the 4-hydroxybutanoic acid tert-butyl ester. Subjecting the ester to hydrogen/deuterium exchange by treatment with potassium carbonate in d1-methanol affords the 2,2-d2-4-hydroxybutanoic acid tert-butyl ester. Finally, saponification of the tert-butyl ester with sodium hydroxide in d1-methanol in a manner analogous to the procedure of Goto, G., et al, Chem. Pharm. Bull. 1985, 33, 4422-4431 affords the desired sodium 2,2-d2-4-hydroxybutyrate.

reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | succinic acid mono-tert-butyl ester | C(C)(C)(C)OC(CCC(=O)O)=O | C8H14O4
